US08258144B2
1-(4-(4-(4-(2-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone
A solution of tert-butyl (1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperidin-2-yl)methylcarbamate (56 mg, 0.11 mmol) in TFA (3 mL) was stirred at room temperature for 60 min. TFA was removed in vacuo. The residue was purified by HPLC to give the titled compound (35 mg) MS 428.4 (M+H); UV 213.8, 258.8 nm.

reactant | tert-butyl (1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperidin-2-yl)methylcarbamate | 0.11 mmol, 56 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N1C(CCCC1)CNC(OC(C)(C)C)=O)F | C27H38FN7O3
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-(4-(4-(2-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 35 mg | NCC1N(CCCC1)C1=NC(=NC=C1F)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C22H30FN7O
